US08258160B2
Synthesis of 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylic acid
To a solution of ethyl 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylate (0.20 g, 0.54 mmol) in a 1:1 mixture of tetrahydrofuran:water (20 mL) was added lithium hydroxide (0.11 g, 2.69 mmol). The reaction mixture was stirred at ambient temperature for 18 hours, acidified with 10% HCl solution and extracted with dichloromethane (2×50 mL). The organic layer was separated, dried over anhydrous sodium sulphate, filtered and concentrated in vacuo to afford the title compound as a white solid in 53% yield (0.27 g): 1H NMR (300 MHz, DMSO-d6) δ 9.15 (s, 1H), 9.03 (t, J=6.0 Hz, 1H), 7.35-7.22 (m, 5H), 4.46 (d, J=6.0 Hz, 2H), 2.63 (s, 3H); MS (ES+) m/z 344.3 (M+1).

reactant | ethyl 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylate | 0.54 mmol, 0.20 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C(=O)OCC)C | C17H17N5O3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 2.69 mmol, 0.11 g | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylic acid | 53% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C(=O)O)C | C15H13N5O3S
